US07667039B2
cis-3,5-Dimethyl-1-(4-nitro-2-trifluoromethyl-phenyl)-piperazine
The title compound is obtained in a similar manner as described in Example 18b starting with cis-2,6-dimethylpiperazine (Aldrich, Buchs, Switzerland) and 2-fluoro-5-nitrobenzotrifluoride (Aldrich, Buchs, Switzerland). Title compound: ES-MS: 304 (M+H)+; analytical HPLC: tret=2.89 minutes (Grad 1).

reactant | cis-2,6-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | 2-fluoro-5-nitrobenzotrifluoride | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
product | cis-3,5-Dimethyl-1-(4-nitro-2-trifluoromethyl-phenyl)-piperazine | C[C@@H]1CN(C[C@@H](N1)C)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H16F3N3O2
